US08937071B2
A suspension of 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline (6.63 mg, 0.027 mmol) in DMF (5 mL) was added to a solution of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid (8 mg, 0.027 mmol) in DMF (5 mL). HOBt (6.31 mg, 0.041 mmol), EDC (7.90 mg, 0.041 mmol) and Et3N (0.011 mL, 0.082 mmol) were added and the mixture was stirred at 50° C. for 12 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield an off white solid of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)acetamide, hydrochloride (1.60 mg, 2.90 μmol, 10.6% yield). TLC (DCM/MeOH=10:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ: 9.41 (d, J=1.54 Hz, 1H), 8.37-8.45 (m, 1H), 7.96 (s, 1H), 7.73-7.88 (m, 2H), 7.18-7.52 (m, 5H), 4.14 (q, J=7.06 Hz, 2H), 3.87 (s, 2H), 2.43 (s, 3H), 1.46 (t, J=6.95 Hz, 3H); ES-LCMS m/z 515.1 (M+H).

reactant | 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline | 0.027 mmol, 6.63 mg | CC=1N=CN(C1)C=1C=C(N)C=C(C1)C(F)(F)F | C11H10F3N3
reactant | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid | 0.027 mmol, 8 mg | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)O)F | C15H14FNO4
reactant | HOBt | 0.041 mmol, 6.31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.041 mmol, 7.90 mg
reactant | Et3N | 0.082 mmol, 0.011 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)acetamide, hydrochloride | 2.90 μmol, 1.60 mg, 10.6% yield | Cl.C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)F | InChI=1S/C26H22F4N4O3.ClH/c1-3-37-23-7-18(12-31-25(23)36)16-4-5-17(22(27)6-16)8-24(35)33-20-9-19(26(28,29)30)10-21(11-20)34-13-15(2)32-14-34;/h4-7,9-14H,3,8H2,1-2H3,(H,31,36)(H,33,35);1H
